US07723333B2
2-Hydroxyphenyl methanesulfonate
2-(Benzyloxy)phenyl methanesulfonate (4.00 g, 14.37 mmol) was dissolved in dry DCM (50 mL) under nitrogen atmosphere. Boron trifluoride diethyl etherate (8.16 g, 57.49 mmol) was added followed by dimethyl sulfide (3.57 g, 57.49 mmol) and the reaction mixture was stirred at rt overnight. The reaction mixture was poured onto ice and the aqueous layer was extracted with DCM. The organic layers were combined, washed with water, dried (Na2SO4), filtered and evaporated to give the title compound (2.49 g, 92%). 1H NMR (500 MHz, CDCl3): δ 3.26 (s, 3H), 6.16 (s, 1H), 6.96 (dt, 1H), 7.09 (dd, 1M), 7.22-7.28 (m, 2H); 13C NMR (125 MHz, CDCl3): δ 37.74, 119.01, 121.65, 123.71, 129.09, 136.99, 148.43; Mass Spectrum: M−H+ 187.

reactant | 2-(Benzyloxy)phenyl methanesulfonate | 14.37 mmol, 4.00 g | CS(=O)(=O)OC1=C(C=CC=C1)OCC1=CC=CC=C1 | C14H14O4S
reactant | Boron trifluoride diethyl etherate | 57.49 mmol, 8.16 g | B(F)(F)F.CCOCC
reactant | dimethyl sulfide | 57.49 mmol, 3.57 g | CSC | C2H6S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Hydroxyphenyl methanesulfonate | 2.49 g, 92% | CS(=O)(=O)OC1=C(C=CC=C1)O | C7H8O4S
